US06399614B1
Preparation of 1-(8-quinolyl)piperazine (85D)
A mixture of 8-aminoquinoline (1.5 g), bis-(2-chloroethyl)amine hydrochloride (2.04 g), o-dichlorobenzene (4.5 mL) and n-hexanol (0.45 mL) was stirred at reflux temperature for 5 h. After cooling to room temperature, the mixture was treated with 2 N NaOH (10 mL) and extracted with CH2Cl2 (3×20 mL). The purification was carried out by flash chromatography (CH2Cl2-2 N methanolic NH3) 97:3 to give 0.48 g (22%) of the title compound.

reactant | 8-aminoquinoline | 1.5 g | NC=1C=CC=C2C=CC=NC12 | C9H8N2
reactant | bis-(2-chloroethyl)amine hydrochloride | 2.04 g | Cl.ClCCNCCCl
reactant | n-hexanol | 0.45 mL | C(CCCCC)O | C6H14O
reactant | NaOH | 2 N, 10 mL | [OH-].[Na+]
solvent | o-dichlorobenzene | 4.5 mL | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | 1-(8-quinolyl)piperazine | 0.48 g, 22% | N1=CC=CC2=CC=CC(=C12)N1CCNCC1 | C13H15N3
